US04824958
4-Bromo-5-methyl-3-[(1-methylethyl)thio]-2-thiophenecarboxylic acid.
1-Methylethyl 4-bromo-5-methyl-3-[(1-methylethyl)thio]-2-thiophenecarboxylate (11.1 g, 33 mmoles) is stirred under argon in a mixture of methanol (10 mL) and 1N sodium hydroxide (70 mL), and heated under reflux. After 4.5 hours the mixture is cooled, stirred into ice water (300 mL) and extracted twice with ether (50 mL). The aqueous layer is acidified with concentrated HCl and the precipitate is filtered off, rinsed with water and dried to afford the product (8.4 g); mp 132°-134° C.

reactant | 1-Methylethyl 4-bromo-5-methyl-3-[(1-methylethyl)thio]-2-thiophenecarboxylate | 33 mmoles, 11.1 g | BrC=1C(=C(SC1C)C(=O)OC(C)C)SC(C)C | C12H17BrO2S2
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 70 mL | [OH-].[Na+]
product | 4-Bromo-5-methyl-3-[(1-methylethyl)thio]-2-thiophenecarboxylic acid | 8.4 g | BrC=1C(=C(SC1C)C(=O)O)SC(C)C | C9H11BrO2S2
